US05684191
maintaining the reaction solution from step (1) at pH 7.5-10, as necessary, by addition of a molar excess of liquid trimethylamine, to effect the formation of betaine and trimethyl ammonium hydrochloride until substantially all of the monochloroacetic acid has been reacted, leaving a residual amount of trimethylammoniumchloroacetate in the reaction solution;

reactant | trimethylamine | CN(C)C | C3H9N
reactant | betaine | C[N+](C)(C)CC(=O)O
reactant | trimethyl ammonium hydrochloride | Cl.C[NH+](C)C
reactant | monochloroacetic acid | ClCC(=O)O | C2H3ClO2
product | trimethylammoniumchloroacetate | ClCC(=O)[O-].C[NH+](C)C | InChI=1S/C3H9N.C2H3ClO2/c1-4(2)3;3-1-2(4)5/h1-3H3;1H2,(H,4,5)
